US05486541
A solution of 3-fluorobenzaldehyde (10 g), malonic acid (15.6 g) and piperidine (0.7 ml) in pyridine (35 ml) was heated at reflux for 3.5 hours. After cooling to room temperature, the reaction mixture was added to a mixture of ice water (210 ml) and conc. hydrochloric acid (56 ml). The precipitate was isolated by filtration and recrystallized from methanol/water to give 3-fluorocinnamic acid (11.3 g).

reactant | 3-fluorobenzaldehyde | 10 g | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | malonic acid | 15.6 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.7 ml | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 56 ml | Cl | ClH
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
product | 3-fluorocinnamic acid | 11.3 g | FC=1C=C(C=CC(=O)O)C=CC1 | C9H7FO2
